US07781431B2
A solution (0.23 M) of methyl 5-(4-chlorophenyl)-6-cyclohexyl-3-(1,3-dioxolan-2-yl)-4-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in DMF at 0° C. was treated with NaH (2 eq., 60% dispersion in mineral oil), and the suspension was stirred at RT for 30 min, then tert-butyl bromoacetate (4 eq.) was added. The reaction mixture was heated at 50° C. for 3.5 h then it was quenched by addition of aqueous NH4Cl (saturated solution) and diluted with Et2O. The aqueous phase was separated and extracted with Et2O. The combined organic phase was washed sequentially with aqueous HCl (1 N), aqueous NaHCO3 (saturated solution) and brine then dried and evaporated. The residue was purified by flash chromatography on silica gel (1:19 to 1:1 AcOEt/petroleum ether) to afford methyl 4-(2-tert-butoxy-2-oxoethyl)-5-(4-chlorophenyl)-6-cyclohexyl-3-(1,3-dioxolan-2-yl)-4H-thieno[3,2-b]pyrrole-2-carboxylate. This compound was dissolved in DCM and the resulting solution (0.1 M) was treated with TFA (16 eq.). The reaction was stirred at RT for 3 h then solvents were evaporated under reduced pressure and the residue was purified by flash chromatography on silica gel (1:99 to 1:19 MeOH/DCM) to afford the title compound (55%).

reactant | methyl 5-(4-chlorophenyl)-6-cyclohexyl-3-(1,3-dioxolan-2-yl)-4-methyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.23 M | ClC1=CC=C(C=C1)C1=C(C2=C(N1C)C(=C(S2)C(=O)OC)C2OCCO2)C2CCCCC2 | C24H26ClNO4S
reactant | NaH | 2 eq. | [H-].[Na+]
reactant | tert-butyl bromoacetate | 4 eq. | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 4-(2-tert-butoxy-2-oxoethyl)-5-(4-chlorophenyl)-6-cyclohexyl-3-(1,3-dioxolan-2-yl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C(C)(C)(C)OC(CN1C2=C(C(=C1C1=CC=C(C=C1)Cl)C1CCCCC1)SC(=C2C2OCCO2)C(=O)OC)=O | C29H34ClNO6S
